US04281118
To a warm (60° C.) solution of 10.0 g (0.0640 mole) of 4-methyl-o-benzenedithiol, 5.12 g (0.128 mole) of sodium hydroxide in 70 ml of water was added 21.0 g (0.128 mole) of 4-(3-chloropropyl)morpholine. The reaction mixture was stirred at 60° to 65° C. for 30 minutes, cooled and extracted with methylene chloride. After the extract was dried over anhydrous magnesium sulfate and filtered, ethanolic hydrogen chloride was added, and the solvent and excess hydrogen chloride were removed by evaporation in vacuo. The oily residue was crystallized from propanol-2. Recrystallization from methanol-propanol-2 (1.4:1) gave the product, 4,4'-((4-methyl-1,2-phenylene)bis(thio-3,1-propanediyl))bismorpholine dihydrochloride as white crystals, m.p. 233-234° C.

reactant | 4-methyl-o-benzenedithiol | 0.0640 mole, 10.0 g | CC=1C=C(C(=CC1)S)S | C7H8S2
reactant | sodium hydroxide | 0.128 mole, 5.12 g | [OH-].[Na+]
reactant | 4-(3-chloropropyl)morpholine | 0.128 mole, 21.0 g | ClCCCN1CCOCC1 | C7H14ClNO
solvent | water | 70 ml | O | H2O
product | 4,4'-((4-methyl-1,2-phenylene)bis(thio-3,1-propanediyl))bismorpholine dihydrochloride | Cl.Cl.CC1=CC(=C(C=C1)SCCCN1CCOCC1)SCCCN1CCOCC1 | InChI=1S/C21H34N2O2S2.2ClH/c1-19-4-5-20(26-16-2-6-22-8-12-24-13-9-22)21(18-19)27-17-3-7-23-10-14-25-15-11-23;;/h4-5,18H,2-3,6-17H2,1H3;2*1H
